US03951960
Disodium 4,4'-bis(4,6-dichloro-s-triazin-2-ylamino)-2,2'-stilbenedisulfonate was prepared by interaction of 500 pounds of 4,4'-diamino-2,2'-stilbenedisulfonic acid with a solution of 500 pounds of cyanuric chloride in 2100 pounds of acetone in an aqueous reaction medium at pH 7-8 prepared by mixing 3200 pounds of crushed ice and approximately 2100 pounds of 10 percent aqueous sodium hydroxide solution. The disodium 4,4'-bis(4,6-dichloro-s-triazin-2-ylamino)-2,2'-stilbenedisulfonate thus obtained was mixed with 270 pounds of disodium phosphate and interacted at 15°-50° C. with 625 pounds of aniline for thrity minutes and then the pH of the reaction mixture was adjusted to 6.7-6.8 by adding approximately 600 pounds of 10 percent aqueous sodium hydroxide solution during a period of one hour.

reactant | 4,4'-diamino-2,2'-stilbenedisulfonic acid | 500 pounds | NC=1C=C(C(=CC1)C=CC=1C(=CC(=CC1)N)S(=O)(=O)O)S(=O)(=O)O | C14H14N2O6S2
reactant | cyanuric chloride | 500 pounds | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium hydroxide | approximately 2100 pounds | [OH-].[Na+]
solvent | acetone | 2100 pounds | CC(=O)C | C3H6O
product | disodium 4,4'-bis(4,6-dichloro-s-triazin-2-ylamino)-2,2'-stilbenedisulfonate | ClC1=NC(=NC(=N1)Cl)NC=1C=C(C(=CC1)C=CC=1C(=CC(=CC1)NC1=NC(=NC(=N1)Cl)Cl)S(=O)(=O)[O-])S(=O)(=O)[O-].[Na+].[Na+] | InChI=1S/C20H12Cl4N8O6S2.2Na/c21-15-27-16(22)30-19(29-15)25-11-5-3-9(13(7-11)39(33,34)35)1-2-10-4-6-12(8-14(10)40(36,37)38)26-20-31-17(23)28-18(24)32-20;;/h1-8H,(H,33,34,35)(H,36,37,38)(H,25,27,29,30)(H,26,28,31,32);;/q;2*+1/p-2
